US05166205
Preparation of 1-[4-(4-Diphenylmethyl-1-piperazinyl)butyl]-4-carboxy pyrazole.
Under reflux for 4 hours is placed a mixture of 6.3 g (25 mmoles) of diphenylmethyl piperazine, 6.87 g (25 mmoles) of 1-(4-bromobutyl)-4-ethyloxycarbonylpyrazole, 5.17 g (37.5 moles) of potassium carbonate and 5.06 g (33.7 mmoles) of sodium iodide in 100 ml of methyl ethyl ketone. It is cooled, filtered and the filtrate evaporated to dryness. The residue is taken up again with chloroform and water, the organic phase is dried with Na2SO4, it is filtered and evaporated under vacuum. The resulting product is purified on a chromatographic silica column (eluant: chloroform-methanol 95:5) and in this way 7.4 g of 1-[4-(4-Diphenylmethyl-1-piperazinyl)butyl]-4-ethyloxycarbonylpyrazole is obtained, with a melting point 70°-74° C.

reactant | diphenylmethyl piperazine | 25 mmoles, 6.3 g | C1(=CC=CC=C1)C(C1=CC=CC=C1)N1CCNCC1 | C17H20N2
reactant | 1-(4-bromobutyl)-4-ethyloxycarbonylpyrazole | 25 mmoles, 6.87 g | BrCCCCN1N=CC(=C1)C(=O)OCC | C10H15BrN2O2
reactant | potassium carbonate | 37.5 moles, 5.17 g | C([O-])([O-])=O.[K+].[K+]
reactant | sodium iodide | 33.7 mmoles, 5.06 g | [I-].[Na+]
solvent | methyl ethyl ketone | 100 ml | C(C)C(=O)C | C4H8O
product | 1-[4-(4-Diphenylmethyl-1-piperazinyl)butyl]-4-carboxy pyrazole | C1(=CC=CC=C1)C(N1CCN(CC1)CCCCN1N=CC(=C1)C(=O)O)C1=CC=CC=C1 | C25H30N4O2
